US08871753B2
Step B: tert-Butyl [4-[(3-aminophenyl)ethynyl]pyridin-2-yl]carbamate
tert-Butyl (4-bromopyridin-2-yl)carbamate (1.935 g, 7.09 mmol), copper(I) iodide (0.67 g, 3.5 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.20 g, 0.28 mmol) were stirred in tetrahydrofuran (22 mL) with triethylamine (1.09 mL, 7.82 mmol) under N2 at rt. 3-Ethynylaniline (0.815 mL, 7.79 mmol) was added and the mixture was heated at 70° C. for 2 hours and only very little product was observed. Thus more 3-ethynylaniline (0.41 mL, 3.9 mmol) was added and the mixture was heated at 70° C. over the weekend. The reaction mixture was filtered and concentrated to give a brown residue, which was purified by silica gel column chromatography to give the desired product (340 mg, 16%). LCMS for C18H20N3O2 (M+H)+: m/z=310.1

reactant | tert-Butyl (4-bromopyridin-2-yl)carbamate | 7.09 mmol, 1.935 g | BrC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C10H13BrN2O2
reactant | triethylamine | 7.82 mmol, 1.09 mL | C(C)N(CC)CC | C6H15N
reactant | 3-Ethynylaniline | 7.79 mmol, 0.815 mL | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | 3-ethynylaniline | 3.9 mmol, 0.41 mL | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 3.5 mmol, 0.67 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.28 mmol, 0.20 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl [4-[(3-aminophenyl)ethynyl]pyridin-2-yl]carbamate | 340 mg, 16% | NC=1C=C(C=CC1)C#CC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C18H19N3O2
